US08278328B2
2-(Trimethylsilyloxybutadiene (6.46 g, 45.4 mmol), phenylmethyl 2-methyl-2-propenoate (8.00 g, 45.4 mmol), and 4,4′-methanediylbis[2,6-bis(1,1-dimethylethyl)phenol] (0.019 g, 0.045 mmol) were combined together in a 20.0 mL microwave vessel and heated to 200° C. for 300 mins. Sample recovered and removed from vessel using THF (˜3×10 mL). The solvent was removed under reduced pressure and the residual oil taken up in 10% 2N HCl/THF (100 mL) and stirred overnight. After this time a clear solution formed, which was diluted with water (50 mL), partitioned into DCM (2×100 mL) and the organic layers separated, dried over MgSO4, filtered and the solvent removed under reduced pressure. The residue was purified by FC over Silica (150 g: 5-10% EtOAc/iso-hex) to afford a clear oil. Confirmed by NMR to be phenylmethyl 1-methyl-4-oxocyclohexanecarboxylate (3.48 g, 11.30 mmol, 24.89% yield).

reactant | Trimethylsilyloxybutadiene | 45.4 mmol, 6.46 g | C[Si](OC=CC=C)(C)C | C7H14OSi
reactant | phenylmethyl 2-methyl-2-propenoate | 45.4 mmol, 8.00 g | CC(C(=O)OCC1=CC=CC=C1)=C | C11H12O2
reactant | water | 50 mL | O | H2O
catalyst | 4,4′-methanediylbis[2,6-bis(1,1-dimethylethyl)phenol] | 0.045 mmol, 0.019 g | C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C29H44O2
product | phenylmethyl 1-methyl-4-oxocyclohexanecarboxylate | 11.30 mmol, 3.48 g, 24.89% yield | CC1(CCC(CC1)=O)C(=O)OCC1=CC=CC=C1 | C15H18O3
